US05998665
0.5 g (0.0015 mol) of 4-amino-N-(6-chloro-2-ethylamino-pyrimidin-4-yl)-benzenesulfonamide was dissolved in 20 ml of ethanol and stirred with 13 ml (0.15 mol) of isopropylamine in an autoclave at 130° C. for 4 hours. The reaction mixture was freed from solvent, the residue was suspended in 5 ml of ethanol and treated in an ultrasound bath for 15 minutes. The precipitate was filtered off, dissolved in 10 ml of 0.1N NaOH and filtered. The filtrate was adjusted to pH 6 with 0.1N HCl. The precipitate was filtered off under suction, washed with water and dried. There was obtained 0.20 g (37%) of 4-amino-N-(2-ethylamino-6-isopropylamino-pyrimidin-4-yl)-benzenesulfonamide as white crystals; m.p.: 258-259° C.

reactant | 4-amino-N-(6-chloro-2-ethylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.0015 mol, 0.5 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)Cl)NCC | C12H14ClN5O2S
reactant | isopropylamine | 0.15 mol, 13 ml | C(C)(C)N | C3H9N
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-amino-N-(2-ethylamino-6-isopropylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.20 g, 37% | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NC(C)C)NCC | C15H22N6O2S
